US08211904B2
Step 1: methyl 2-[(1,1-dimethylprop-2-yn-1-yl)amino]benzoate
To a solution of methyl anthranilate (5.54 g, 36.6 mmol), triethylamine (3.48 g, 34.5 mmol), cuprous chloride (0.21 g, 2.15 mmol), copper powder (0.163 g, 2.56 mmol) in H2O (4 mL) and THF (14 mL) was added 3-chloro-3-methyl-1-butyne (2.21 g, 21.6 mmol). After heating to 65° C. for 4 h the reaction was cooled, diluted with water and extracted using diethyl ether (three times). The combined organic layers were washed with water, dried using MgSO4 and concentrated under vacuum. Purification by silica gel chromatography (5% EtOAc/hexanes-10% EtOAc/hexanes) afforded the desired product.

reactant | methyl anthranilate | 36.6 mmol, 5.54 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | triethylamine | 34.5 mmol, 3.48 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-3-methyl-1-butyne | 21.6 mmol, 2.21 g | ClC(C#C)(C)C | C5H7Cl
solvent | H2O | 4 mL | O | H2O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
catalyst | copper | 2.56 mmol, 0.163 g | [Cu] | Cu
product | methyl 2-[(1,1-dimethylprop-2-yn-1-yl)amino]benzoate | CC(C#C)(C)NC1=C(C(=O)OC)C=CC=C1 | C13H15NO2
